US09193741B2
Synthesis of 4-ethoxy-6-(4-fluorophenyl)thieno[2,3-d]pyrimidin-2-amine
To a solution of 2-amino-6-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4(3H)-one (50 mg, 0.19 mmol) and BOP (110 mg, 0.25 mmol) in EtOH (1 ml) was added DBU (43 μl, 0.29 mmol). The resulting mixture was heated at 60° C. for 4 hours. After cooling down to room temperature, sodium ethoxide (26 mg, 0.38 mmol) was added. The mixture was again heated at 60° C. overnight. The solvents were removed under reduced pressure and the crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 60:1) yielding the title compound as a white solid (30 mg, 54%). mp 142° C.

reactant | 2-amino-6-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4(3H)-one | 0.19 mmol, 50 mg | NC=1NC(C2=C(N1)SC(=C2)C2=CC=C(C=C2)F)=O | C12H8FN3OS
reactant | BOP | 0.25 mmol, 110 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DBU | 0.29 mmol, 43 μl | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium ethoxide | 0.38 mmol, 26 mg | [O-]CC.[Na+]
solvent | EtOH | 1 ml | CCO | C2H6O
product | 4-ethoxy-6-(4-fluorophenyl)thieno[2,3-d]pyrimidin-2-amine | 30 mg, 54% | C(C)OC=1C2=C(N=C(N1)N)SC(=C2)C2=CC=C(C=C2)F | C14H12FN3OS
